US09079919B2
5-((2RS,4R)-2′-amino-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)nicotinonitrile
In a manner analogous to that described in Example 19, the cross coupling reaction of (2RS,4R)-6-bromo-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine (intermediate B6.3) with 5-cyanopyridin-3-ylboronic acid yielded the title compound (16% yield) as a white solid. MS (ISP): m/z=433.3 [M+H]+.

reactant | (2RS,4R)-6-bromo-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(OCC1(F)F)N)C1=CC=CC=C1 | C18H15BrF2N2O2
reactant | 5-cyanopyridin-3-ylboronic acid | C(#N)C=1C=C(C=NC1)B(O)O | C6H5BN2O2
product | 5-((2RS,4R)-2′-amino-5′,5′-difluoro-2-phenyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)nicotinonitrile | 16% yield | NC=1OCC([C@@]2(N1)CC(OC1=CC=C(C=C12)C=1C=NC=C(C#N)C1)C1=CC=CC=C1)(F)F | C24H18F2N4O2
